US06689922B1
5-{2-[3-(6-Hydroxy-6-methylheptyl)phenyl]-1-methylvinyl}benzene-1,3-diol
In a manner similar to Example 3(i), by reacting 402 mg (0.69 mmol) of 7-(3-{2-[3,5-bis(tert-butyldimethylsilanyloxy)phenyl]propenyl}phenyl)-2-methylheptan-2-ol with 1.4 ml of tetrabutylammonium fluoride 1M/THF, after purification on a silica column (ethyl acetate 40-heptane 60), white crystals (m=176 mg; Y=72%) are obtained. m.p. 113-4° C.

reactant | 7-(3-{2-[3,5-bis(tert-butyldimethylsilanyloxy)phenyl]propenyl}phenyl)-2-methylheptan-2-ol | 0.69 mmol, 402 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=C(C1)O[Si](C)(C)C(C)(C)C)C(=CC=1C=C(C=CC1)CCCCCC(C)(O)C)C | C35H58O3Si2
reactant | tetrabutylammonium fluoride | 1M, 1.4 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
product | 5-{2-[3-(6-Hydroxy-6-methylheptyl)phenyl]-1-methylvinyl}benzene-1,3-diol | OC(CCCCCC=1C=C(C=CC1)C=C(C)C=1C=C(C=C(C1)O)O)(C)C | C23H30O3
